US06486184B2
A solution of rac-cyclohexyloxy-(3,4-dichloro-phenyl)-acetic acid (102 mg, 0.34 mmol) in dichloromethane (10 mL) was treated with benzotriazol-1-yloxy-(dimethylamino)phosphonium hexafluorophosphate (BOP) reagent (223 mg, 0.51 mmol), triethylamine (0.14 mL, 0.52 mmol), and 2-aminothiazole (51 mg, 0.51 mmol) at 25° C. After the resulting brownish-orange solution was stirred 16 h at 25° C., it was diluted with water (10 mL) and extracted with ethyl acetate (3×15 mL). The combined organic layers were washed with water (1×10 mL), 1N sodium hydroxide solution (1×10 mL), 1N hydrochloric acid (1×10 mL), and brine (1×10 mL), then were dried over sodium sulfate and evaporated in vacuo. The product was purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 90/10 hexanes/ethyl acetate) to furnish rac-2-cyclohexyloxy-2-(3,4-dichloro-phenyl)-N-thiazol-2-yl-acetamide (115 mg, 88% yield) as a white foam: EI-HRMS m/e calcd for C17H , H18Cl2O2N2S (M+) 384.0466, found 384.0469.

reactant | rac-cyclohexyloxy-(3,4-dichloro-phenyl)-acetic acid | 0.34 mmol, 102 mg | C1(CCCCC1)OC(C(=O)O)C1=CC(=C(C=C1)Cl)Cl | C14H16Cl2O3
reactant | benzotriazol-1-yloxy-(dimethylamino)phosphonium hexafluorophosphate | 0.51 mmol, 223 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[PH2+]N(C)C
reactant | triethylamine | 0.52 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | 2-aminothiazole | 0.51 mmol, 51 mg | NC=1SC=CN1 | C3H4N2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | rac-2-cyclohexyloxy-2-(3,4-dichloro-phenyl)-N-thiazol-2-yl-acetamide | 115 mg, 88% yield | C1(CCCCC1)OC(C(=O)NC=1SC=CN1)C1=CC(=C(C=C1)Cl)Cl | C17H18Cl2N2O2S
